US07790903B2
Synthesis of benzyl (S)-2-trifluoromethanesulfonyloxybutyrate
Benzyl (S)-2-hydroxybutyrate (758 mg, 99% ee) was dissolved in methylene chloride (10 mL), and pyridine (324 mg) was added. Then, trifluoromethanesulfonic anhydride (1.10 g, 3.90 mmol) was added dropwise at 0° C. and stirred for 30 minutes. After the reaction, the reaction liquor was subjected to silica gel column chromatography, eluted with chloroform, and then concentrated under reduced pressure, to obtain a colorless oil (1.2 g, 96.0%).

reactant | Benzyl (S)-2-hydroxybutyrate | 758 mg | O[C@H](C(=O)OCC1=CC=CC=C1)CC | C11H14O3
reactant | pyridine | 324 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 3.90 mmol, 1.10 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-2-trifluoromethanesulfonyloxybutyrate | 1.2 g, 96.0% | FC(S(=O)(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC)(F)F | C12H13F3O5S
